US07238808B2
5-[6-(4-Trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-thiophene-2-sulfonic acid amide
The title compound was prepared from 3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine (example C.24) (400 mg, 1.3 mmol) and commercially available 5-bromothiophene-2-sulfonamide (338 mg, 1.3 mmol) according to general procedure II. Obtained as a white solid (90 mg, 14%). MS (ISP) 448.1 [(M+H)+]; mp 206–210° C.

reactant | 3-ethynyl-6-(4-trifluoromethyl-phenyl)-imidazo[1,2-a]pyridine | 1.3 mmol, 400 mg | C(#C)C1=CN=C2N1C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F | C16H9F3N2
reactant | 5-bromothiophene-2-sulfonamide | 1.3 mmol, 338 mg | BrC1=CC=C(S1)S(=O)(=O)N | C4H4BrNO2S2
product | 5-[6-(4-Trifluoromethyl-phenyl)-imidazo[1,2-a]pyridin-3-ylethynyl]-thiophene-2-sulfonic acid amide | FC(C1=CC=C(C=C1)C=1C=CC=2N(C1)C(=CN2)C#CC2=CC=C(S2)S(=O)(=O)N)(F)F | C20H12F3N3O2S2
